US07214673B2
(S)-2-Isopropyl-10-(3-phenethyl-piperazin-1-yl)-2,4-dihydro-1,2,3,4.9-pentaaza-benzo[f]azulene dihydrochloride hemihydrate
Combine 2-isopropyl-2,4-dihydro-1,2,3,4,9-pentaaza-benzo[f]azulen-10-ylamine (0.863 g, 3.56 mmol), (S)-2-phenethyl-piperazine (0.678 g, 3.56 mmol) in NMP (6.0 mL) and heat at 200° C. for 3 hours. Cool to ambient temperature and dilute with water (75 mL). Extract with ethyl acetate to give 1.59 g of the crude product. Silica gel chromatography, eluding with methylene chloride:methanol (100:7.5), to give the title compound as the free base. The dihydrochloride salt precipitates in ethyl acetate as a yellow solid: mp 210° C.; mass spectrum (ion spray): m/z=416 (M+1); Analysis for C24H31Cl2N7(0.5 H2O): calcd: C, 57.95; H, 6.48; N, 19.71; found: C, 58.01; H, 6.22; N, 19.70.

reactant | 2-isopropyl-2,4-dihydro-1,2,3,4,9-pentaaza-benzo[f]azulen-10-ylamine | 3.56 mmol, 0.863 g | C(C)(C)N1N=C2C(=NC3=C(NC2=N1)C=CC=C3)N | C12H14N6
reactant | (S)-2-phenethyl-piperazine | 3.56 mmol, 0.678 g | C(CC1=CC=CC=C1)[C@@H]1NCCNC1 | C12H18N2
reactant | methylene chloride methanol | C(Cl)Cl.CO
solvent | NMP | 6.0 mL | CN1CCCC1=O | C5H9NO
solvent | water | 75 mL | O | H2O
product | (S)-2-Isopropyl-10-(3-phenethyl-piperazin-1-yl)-2,4-dihydro-1,2,3,4.9-pentaaza-benzo[f]azulene dihydrochloride hemihydrate | O.Cl.Cl.C(C)(C)N1N=C2C(=NC3=C(NC2=N1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC=CC=C3.C(C)(C)N3N=C1C(=NC2=C(NC1=N3)C=CC=C2)N2C[C@@H](NCC2)CCC2=CC=CC=C2.Cl.Cl | InChI=1S/2C24H29N7.4ClH.H2O/c2*1-17(2)31-28-22-23(29-31)26-20-10-6-7-11-21(20)27-24(22)30-15-14-25-19(16-30)13-12-18-8-4-3-5-9-18;;;;;/h2*3-11,17,19,25H,12-16H2,1-2H3,(H,26,29);4*1H;1H2/t2*19-;;;;;/m00...../s1
